US07723538B2
3-(5-Chloro-2-methoxy-benzenesulfonylamino)-N-[4-(2-oxo-2,3-dihydro-[1,2,3,5]oxathiadiazol-4-yl)-phenyl]-benzamide
A solution of 3-(5-chloro-2-methoxy-benzenesulfonylamino)-N-[4-(N-hydroxycarbamimidoyl)-phenyl]-benzamide (110 mg, 0.23 mmol) in tetrahydrofuran (7.0 ml) under argon was treated with pyridine (37 mg, 2 equiv.) and cooled to 0° C. A solution of thionyl chloride (28 mg, 1.01 equiv.) in dichloromethane (1.0 ml) was then added dropwise in 6 min. The mixture was stirred at 0° C. for 20 min and then at room temperature for 45 min. The solvent was evaporated and the residue diluted with water and extracted with ethyl acetate. The organic phase was dried over sodium sulfate and evaporated. Purification via preparative HPLC (Column: ZORBAX ECLIPSE XDB-C18, 21.2×50 mm, 5 um, PN 970050-902, SN USDN001082. Gradient: 0-1.2 min: 10% CH3 CN in (water+0.1% HCO2H), 1.2-4.7 min: increasing of CH3CN from 10% to 95%, 4.7-5.7 min: 95% of CH3CN, 5.7-59 min: decreasing of CH3CN from 95% to 10%. Program end at 6 min. Flow:30 ml/min) yielded the title compound as a light green solid (11 mg, 9%), MS (ISP): m/e=519.1 (M−H).

reactant | 3-(5-chloro-2-methoxy-benzenesulfonylamino)-N-[4-(N-hydroxycarbamimidoyl)-phenyl]-benzamide | 0.23 mmol, 110 mg | ClC=1C=CC(=C(C1)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=C(C=C2)C(NO)=N)C=CC1)OC | C21H19ClN4O5S
reactant | pyridine | 37 mg, 2 equiv. | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 28 mg, 1.01 equiv. | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 7.0 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 1.0 ml | ClCCl | CH2Cl2
product | 3-(5-Chloro-2-methoxy-benzenesulfonylamino)-N-[4-(2-oxo-2,3-dihydro-[1,2,3,5]oxathiadiazol-4-yl)-phenyl]-benzamide | 11 mg, 9% | ClC=1C=CC(=C(C1)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=C(C=C2)C=2NS(ON2)=O)C=CC1)OC | C21H17ClN4O6S2
